US06344459B1
To a solution of 6-amino-4-[(3-bromophenyl)amino]pyrido[3,4-d]pyrimidine (J Med Chem, 1996;39:1823) (250 mg, 0.82 mmol), Et3N (excess, 2.0 mL) and DMAP (catalytic) in THF (30 mL) under nitrogen was added methacryloyl chloride (3×1.1 mol eq., total of 264 μL), the reaction conditions and work up were followed as above to give after column and preparative layer chromatography on silica gel eluting with EtOAc/CH2Cl2 (1:1), N-[4-[(3-bromophenyl)amino]pyrido-[3,4-d]pyrimidin-6-yl]-2-methylacrylamide (18 mg, 6%) as a cream powder, mp (CH2Cl2/hexane) 177-178° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]pyrido[3,4-d]pyrimidine | 0.82 mmol, 250 mg | NC1=CC2=C(N=CN=C2NC2=CC(=CC=C2)Br)C=N1 | C13H10BrN5
reactant | Et3N | 2.0 mL | CCN(CC)CC | C6H15N
reactant | methacryloyl chloride | 1.1 mol, 264 μL | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | N-[4-[(3-bromophenyl)amino]pyrido-[3,4-d]pyrimidin-6-yl]-2-methylacrylamide | 18 mg, 6% | BrC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=NC(=C2)NC(C(=C)C)=O | C17H14BrN5O
